US08378118B2
Step I: Preparation of 4,7-Dimethoxy indane
To the cooled and stirred suspension of 4,7-Dimethoxyindan-1-one (35 gm, 0.182 mole) in Triethyl silane (105.7 gm, 0.909 mole), added Trifluoroacetic acid (350 ml) at 10-15° C. The stirring was continued at room temperature for 2 hours and quenched into the water. It was extracted with Ethyl acetate. The Ethyl acetate layer was washed with Sodium bicarbonate solution, dried over Sodium sulphate and evaporated to give crude mass which was purified by column chouromatography using 5% Ethyl acetate in hexane (22.5 gm).

reactant | 4,7-Dimethoxyindan-1-one | 0.182 mole, 35 gm | COC1=C2CCC(C2=C(C=C1)OC)=O | C11H12O3
reactant | Triethyl silane | 0.909 mole, 105.7 gm | C(C)[SiH](CC)CC | C6H16Si
solvent | Trifluoroacetic acid | 350 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4,7-Dimethoxy indane | COC1=C2CCCC2=C(C=C1)OC | C11H14O2
